US09227970B2
a) (6-Bromo-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-dimethyl-amine
Using dimethylamine, this compound was prepared following the same method as for the synthesis of 6-bromo-2-morpholin-4-yl-[1,2,4]triazolo[1,5-a]pyridine White solid (0.65 g, 75%). MS: m/z=242 (M+H+).

reactant | dimethylamine | CNC | C2H7N
reactant | 6-bromo-2-morpholin-4-yl-[1,2,4]triazolo[1,5-a]pyridine | 0.65 g | BrC=1C=CC=2N(C1)N=C(N2)N2CCOCC2 | C10H11BrN4O
product | (6-Bromo-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-dimethyl-amine | BrC=1C=CC=2N(C1)N=C(N2)N(C)C | C8H9BrN4
